US04571396
7-(2,5-Diazabicyclo[2.2.2]oct-2-yl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
A solution of 0.54 g (2.0 mmole) of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, 0.46 g (2.5 mmole) of 2,5-diazabicyclo[2.2.2]octane dihydrochloride [P. A. Sturm et al., J. Med. Chem., 17, 481 (1974)], 1.05 ml (7.0 mmole) of 1,8-diazabicyclo (5.4.0) undec-7-ene, and 30 ml of acetonitrile was stirred at room temperature for 23 hours. The reaction mixture was filtered and the solid was washed with acetonitrile to give 0.63 g of the title compound, mp 250°-253°.

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 2.0 mmole, 0.54 g | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
reactant | 2,5-diazabicyclo[2.2.2]octane dihydrochloride | 2.5 mmole, 0.46 g | Cl.Cl.C12NCC(NC1)CC2
reactant | 1,8-diazabicyclo (5.4.0) undec-7-ene | 7.0 mmole, 1.05 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 7-(2,5-Diazabicyclo[2.2.2]oct-2-yl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.63 g | C12N(CC(NC1)CC2)C2=C(C=C1C(C(=CN(C1=N2)CC)C(=O)O)=O)F | C17H19FN4O3
